US09382222B2
To a solution of N-(4-chloro-benzyl)-N-isobutyl-4-((+/−)trans-3-triisopropylsilanyloxy-piperidin-4-yloxy)-benzenesulfonamide (185 mg, 304 μmol) in DCM (5 mL) was added DIPEA (106 μL, 609 μmol) followed by methanesulfonyl chloride (1 mL of a 231 μL, 3 mmol solution in 10 mL of DCM) and the reaction stirred at room temperature for 1 hour. Saturated aqueous NaHCO3 was then added, extracted with DCM, filtered through a phase separator and concentrated to give N-(4-Chloro-benzyl)-N-isobutyl-4-((+/−)trans-1-methanesulfonyl-3-triisopropylsilanyloxy-piperidin-4-yloxy)-benzenesulfonamide (271 mg, 100%). LCMS (m/z, Method A) ES+ 709 [M+23]+.

reactant | N-(4-chloro-benzyl)-N-isobutyl-4-((+/−)trans-3-triisopropylsilanyloxy-piperidin-4-yloxy)-benzenesulfonamide | 304 μmol, 185 mg | ClC1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)O[C@H]2[C@@H](CNCC2)O[Si](C(C)C)(C(C)C)C(C)C)CC(C)C)C=C1 | C31H49ClN2O4SSi
reactant | DIPEA | 609 μmol, 106 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Chloro-benzyl)-N-isobutyl-4-((+/−)trans-1-methanesulfonyl-3-triisopropylsilanyloxy-piperidin-4-yloxy)-benzenesulfonamide | 271 mg, 100% | ClC1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)O[C@H]2[C@@H](CN(CC2)S(=O)(=O)C)O[Si](C(C)C)(C(C)C)C(C)C)CC(C)C)C=C1 | C32H51ClN2O6S2Si
